US04535089
2.5 g of ethyl 3-(4-chlorobenzoylamino)-3-isovalerylpropionate, 10 ml of dimethylformamide and 2.3 g of phosphorus oxychloride are treated in the same manner as described in Example 1. 1.5 g of ethyl 2-[2-(4-chlorophenyl)-5-isobutyl-4-oxazolyl]acetate are thereby obtained. Yield: 63.3%.

reactant | ethyl 3-(4-chlorobenzoylamino)-3-isovalerylpropionate | 2.5 g | ClC1=CC=C(C(=O)NC(CC(=O)OCC)C(CC(C)C)=O)C=C1 | C17H22ClNO4
reactant | phosphorus oxychloride | 2.3 g | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | ethyl 2-[2-(4-chlorophenyl)-5-isobutyl-4-oxazolyl]acetate | 1.5 g, Yield: 63.3% | ClC1=CC=C(C=C1)C=1OC(=C(N1)CC(=O)OCC)CC(C)C | C17H20ClNO3
